US05250517
90 mg (0.23 mmol) of (S)-α-amino-N- [(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide and 0.047 ml of Hunig base in 2ml of acetonitrile were treated dropwise at room temperature with a solution of 60.7 mg of (S)-α-[(3,3-dimethylbutyryl)oxy]hydrocinnamic acid and 101 mg of BOP in 5 ml of acetonitrile. The mixture was stirred at room temperature for 4 hours, subsequently poured into 2N sodium bicarbonate solution and extracted with methylene chloride. The organic phase was washed with ammonium chloride solution and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was chromatographed on silica gel. After elution with a 20:1 mixture of methylene chloride and methanol, there were obtained 50 mg (34%) of (S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl 5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl 3,3-dimethylbutyrate as a yellow oil. MS: 637 (M+H)+.

reactant | (S)-α-amino-N- [(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.23 mmol, 90 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | Hunig base | 0.047 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-α-[(3,3-dimethylbutyryl)oxy]hydrocinnamic acid | 60.7 mg | CC(CC(=O)O[C@H](C(=O)O)CC1=CC=CC=C1)(C)C | C15H20O4
reactant | BOP | 101 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | sodium bicarbonate | 2N | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 2ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl 5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl 3,3-dimethylbutyrate | 50 mg, 34% | CC(CC(=O)O[C@@H](CC1=CC=CC=C1)C(N[C@@H](CC=1N=CNC1)C(N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)=O)=O)(C)C | C37H56N4O5
